US07777047B2
N-[2-(5-cyano-4,5-dihydro-1,3-thiazol-2-yl)-4-methyl-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide
To a mixture of triphenylphosphine oxide (2.35 g) and acetonitrile (20 mL) was slowly added trifluoromethanesulfonic anhydride (0.71 mL) at 0° C., and the mixture was stirred for 10 min. N-[2-(Benzylthio)-2-cyanoethyl]-4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (1.10 g) and dimethylsulfide (0.46 mL) were added. The reaction mixture was stirred at 0° C. for 30 min, saturated aqueous sodium hydrogencarbonate was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (0.58 g, yield 67%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (3:2, volume ratio). melting point 173-174° C.

reactant | triphenylphosphine oxide | 2.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.71 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-[2-(Benzylthio)-2-cyanoethyl]-4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 1.10 g | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=CC(=C2C1)C)N(S(=O)(=O)C=1SC=CC1)C)C#N | C25H24N4O3S3
reactant | dimethylsulfide | 0.46 mL | CSC | C2H6S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-[2-(5-cyano-4,5-dihydro-1,3-thiazol-2-yl)-4-methyl-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 0.58 g, yield 67% | C(#N)C1CN=C(S1)C=1NC2=C(C=CC(=C2C1)C)N(S(=O)(=O)C=1SC=CC1)C | C18H16N4O2S3
